US04289772
1-Chloro-6,7-dimethoxyphthalazine (4.5 g), N-(piperid-4-yl)-N-methyltrifluoracetamide hydrochloride (9.9 g) and triethylamine (5.5 ml) were heated together for 5 hours at 100° in iso-amylalcohol (100 ml). The solution was cooled to room temperature and the excess iso-amylalcohol was removed by distillation in vacuo. The residue was dissolved in dilute hydrochloric acid to pH 2, extracted with chloroform (2×100 ml), the chloroform extract shaken with dilute sodium hydroxide, and then quickly separated. The organic phase was washed with water (150 ml), dried over magnesium sulphate, and taken to dryness in vacuo. The resultant brown oil was triturated with ether, filtered, and the filtrate was left standing at room temperature for two hours, during which time a yellow solid precipitated from solution. This solid was collected and crystallized from iso-propylalcohol, yielding 6,7-dimethoxy-1-[4-(N-methyltrifluoracetamido)piperidino]phthalazine (2.9 g), m.p. 150°-152°.

reactant | 1-Chloro-6,7-dimethoxyphthalazine | 4.5 g | ClC1=NN=CC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | N-(piperid-4-yl)-N-methyltrifluoracetamide hydrochloride | 9.9 g | Cl.N1CCC(CC1)N(C(C(F)(F)F)=O)C
reactant | triethylamine | 5.5 ml | C(C)N(CC)CC | C6H15N
solvent | iso-amylalcohol | 100 ml | C(CC(C)C)O | C5H12O
product | 6,7-dimethoxy-1-[4-(N-methyltrifluoracetamido)piperidino]phthalazine | 2.9 g | COC=1C=C2C=NN=C(C2=CC1OC)N1CCC(CC1)N(C(C(F)(F)F)=O)C | C18H21F3N4O3
